US06143764
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-(4-phenylcarbonylphenyl)urea [195]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (54 mg) was suspended in toluene (5 ml), triphosgene (53 mg) was added, and the admixture was refluxed with heat for 20 minutes. 4-Aminobenzophenone (85 mg) was added to the reaction mixture, and the admixture was refluxed for 1 hour with heat. After the addition of aqueous sodium hydrogen carbonate, the reaction mixture was extracted 2 times with ethyl acetate, and the organic layer was then washed with brine and dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 19 mg of the title compound (yield: 21%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 54 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | triphosgene | 53 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-Aminobenzophenone | 85 mg | NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H11NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N'-(4-phenylcarbonylphenyl)urea | 19 mg, yield: 21% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C31H25N3O5
